US04031226
A mixture of 6.6 parts of ethyl {2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl }-carbamate, 60 parts of a hydrobromic acid solution 48% in water and 4 parts of water is stirred and refluxed for 2.50 hours. After cooling, the precipitated product is filtered off and crystallized from water, yielding 5.5 parts of 1- [1-(2-aminoethyl)-4-piperidinyl]-5-chloro-1,3-dihydro-2H-benzimidazol-2-one dihydrobromide; mp. > 300° C.

reactant | ethyl {2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl }-carbamate | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCNC(OCC)=O)C=C1 | C17H23ClN4O3
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 1- [1-(2-aminoethyl)-4-piperidinyl]-5-chloro-1,3-dihydro-2H-benzimidazol-2-one dihydrobromide | Br.Br.NCCN1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | InChI=1S/C14H19ClN4O.2BrH/c15-10-1-2-13-12(9-10)17-14(20)19(13)11-3-6-18(7-4-11)8-5-16;;/h1-2,9,11H,3-8,16H2,(H,17,20);2*1H
